US07414050B2
c) 5-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid potassium salt
To a solution of 5-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester (as prepared in the previous step, 0.090 g, 0.32 mmol) in 2 mL of ethyl achohol (EtOH) at RT was added 0.16 mL of 2N KOH. The mixture was stirred for 1 h and then concentrated and dried under vacuum to afford the title compound as a solid that was used without further purification.

reactant | 5-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=CN1)C)COCC[Si](C)(C)C | C13H24N2O3Si
reactant | KOH | 2N, 0.16 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 5-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid potassium salt | [K+].CC1=CN=C(N1COCC[Si](C)(C)C)C(=O)[O-] | InChI=1S/C11H20N2O3Si.K/c1-9-7-12-10(11(14)15)13(9)8-16-5-6-17(2,3)4;/h7H,5-6,8H2,1-4H3,(H,14,15);/q;+1/p-1
